US06828442B2
A solution of 5.0 g of (R)-1-(phenylmethyl)-3-pyrrolidinamine in 50.0 ml CH3CN was treated at rt with 2.72 g of Na3PO4. The resulting fine light yellow suspension was cooled to 0° C. and treated with a solution of 10.07 g of 2,4-dibromobutyrylbromide (prepared according to Marinelli, E. R.; Arunachalam, T.; Diamantidis, G.; Emswiler, J.; Fan, H.; Neubeck, R.; Pillai, K. M. R.; Wagler, T. R.; Chen, C.-K.; et al. Tetrahedron (1996), 52(34), 11177-11214) in 5.0 ml of CH3CN over 20 min. After 30 min the very fine suspension was filtered and concentrated to a volume of 30 ml, and then treated with 130.1 ml of 0.497 M NaOH solution at room temperature. The resultant turbid orange solution was stirred for 2 h, concentrated and the resultant aqueous phase extracted with three portions of 50 ml of TBME. The combined organic phases were washed with H2O until neutral, dried over MgSO4 and concentrated to give 5.79 g (63%) of (R)-(1′-benzyl-3-bromo-[1,3′]bipyrrolidinyl-2-one) as yellow waxy crystals.

reactant | (R)-1-(phenylmethyl)-3-pyrrolidinamine | 5.0 g | C1(=CC=CC=C1)CN1C[C@@H](CC1)N | C11H16N2
reactant | 2,4-dibromobutyrylbromide | 10.07 g | BrC(C(=O)Br)CCBr | C4H5Br3O
solvent | CH3CN | 50.0 ml | CC#N | C2H3N
solvent | CH3CN | 5.0 ml | CC#N | C2H3N
product | (R)-(1′-benzyl-3-bromo-[1,3′]bipyrrolidinyl-2-one) | 5.79 g, 63% | C(C1=CC=CC=C1)N1CC(CC1)N1C([C@@H](CC1)Br)=O | C15H19BrN2O
